US08404859B2
(S)-2-({5-[(2-oxo-2,3-dihydro-1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid
To a solution of (S)-2-({5-[(2-oxo-2,3-dihydro-1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester (53 mg, 0.089 mmol) in THF (5 mL) was added a solution of lithium hydroxide monohydrate (37 mg, 0.89 mmol) in water (6 mL). The mixture was then stirred at room temperature 5 h. The mixture was then acidified with 1N HCl and extracted with EtOAc (×3). The extracts were combined, washed with water and brine, dried over sodium sulfate, filtered, and evaporated to pure product, 0.0466 g (90%). MS m/e 581.0 (M+H+).

reactant | (S)-2-({5-[(2-oxo-2,3-dihydro-1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid methyl ester | 0.089 mmol, 53 mg | COC([C@H](CNC(=O)C=1SC=CC1)NC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2CC(NC2=CC=C1)=O)=O)=O | C25H21F3N4O6S2
reactant | lithium hydroxide monohydrate | 0.89 mmol, 37 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (S)-2-({5-[(2-oxo-2,3-dihydro-1H-indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carbonyl}-amino)-3-[(thiophene-2-carbonyl)-amino]-propionic acid | O=C1NC2=CC=CC(=C2C1)CNC(=O)C1=CC(=C(S1)C(=O)N[C@H](C(=O)O)CNC(=O)C=1SC=CC1)C(F)(F)F | C24H19F3N4O6S2
